US04806549
3-Butyryl-4-chloro-8-methylquinoline (2.33 g, 10 mmol), 2-methoxyaniline (1.69 ml, 15 mmol) and dioxan (10 ml) were heated at reflux for 30 minutes, then allowed to cool. The hydrochloride salt was filtered off, converted to free base and recrystallised from ethanol to give 3-butyryl-4-(2-methoxy- phenylamino)quinoline (2.78 g), m.p. 167°-168°.

reactant | 3-Butyryl-4-chloro-8-methylquinoline | 10 mmol, 2.33 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)C | C14H14ClNO
reactant | 2-methoxyaniline | 15 mmol, 1.69 ml | COC1=C(N)C=CC=C1 | C7H9NO
solvent | dioxan | 10 ml | O1CCOCC1 | C4H8O2
product | 3-butyryl-4-(2-methoxy- phenylamino)quinoline | 2.78 g | C(CCC)(=O)C=1C=NC2=CC=CC=C2C1NC1=C(C=CC=C1)OC | C20H20N2O2
